US06191080B1
The thiophenol derivative and the halogenated aromatic compound are reacted under the reaction conditions described above, subjected to distillation under a reduced pressure as it is or after filtration, to obtain a polyphenyl thioether crude product fraction. For example, by the reaction between a potassium salt of thiophenol and m-dichlorobenzene, a m-bis(phenylmercapto) benzene crude product can be obtained as a fraction at 220° C.-230° C./5 Torr.

reactant | potassium | [K] | K
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | m-dichlorobenzene | ClC1=CC(=CC=C1)Cl | C6H4Cl2
product | m-bis(phenylmercapto) benzene | C1(=CC=CC=C1)SC1=CC(=CC=C1)SC1=CC=CC=C1 | C18H14S2
